US07521451B2
Ethyl (E)-5,6-dimethyl-3-oxo-1,3-dihydroisobenzofuran-1-ylideneacetate (0.20 g, 0.81 mmol) and 4-fluoroaniline (0.10 g, 0.89 mmol) were stirred with heating in acetic acid at 110° C. for 7 hrs. The reaction solution was concentrated under reduced pressure, and methanol was added to the residue. The resulting crystals were collected by filtration, and dried to give 0.24 g of 5,6-dimethyl-3-[(E)-2-ethoxy-2-oxoethylidene]-2-(4-fluoro-phenyl)isoindolin-1-one [IUPAC name: ethyl 2-[2-(4-fluorophenyl)-5,6-dimethyl-3-oxo-2,3-dihydro-1H-isoindol-1-ylidene]acetate].

reactant | Ethyl (E)-5,6-dimethyl-3-oxo-1,3-dihydroisobenzofuran-1-ylideneacetate | 0.81 mmol, 0.20 g | CC=1C=C2C(O\C(\C2=CC1C)=C\C(=O)OCC)=O | C14H14O4
reactant | 4-fluoroaniline | 0.89 mmol, 0.10 g | FC1=CC=C(N)C=C1 | C6H6FN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5,6-dimethyl-3-[(E)-2-ethoxy-2-oxoethylidene]-2-(4-fluoro-phenyl)isoindolin-1-one | 0.24 g | CC=1C=C2\C(\N(C(C2=CC1C)=O)C1=CC=C(C=C1)F)=C/C(=O)OCC | C20H18FNO3
